US05149859
Synthesis of N-hydroxy-N-(2-naphthylmethyl)-4methoxycarbonylbutanamide
Into a solution of 52 mg (0.3 mmol) of 2-naphthylmethylhydroxylamine in THF (5 ml) and water (1 ml) was added 30 mg (0.3 mmol) of triethylamine, and then a solution of 49 mg (0.3 mmol) of acid chloride of 4-methoxycarbonylbutanoic acid in THF (1 ml), followed by stirring at room temperature for 30 minutes. 1N-HCl (5 ml) was added and the desired product was extracted with methylene chloride. The extract was successively washed with water, aqueous NaCl, and then dried over anhydrous magnesium sulfate to give a purified product, which was then subjected to silica gel column chromatography to obtain 58 mg (64%) of the desired product.

reactant | 2-naphthylmethylhydroxylamine | 0.3 mmol, 52 mg | C1=C(C=CC2=CC=CC=C12)CNO | C11H11NO
reactant | triethylamine | 0.3 mmol, 30 mg | C(C)N(CC)CC | C6H15N
reactant | 4-methoxycarbonylbutanoic acid | COC(=O)CCCC(=O)O | C6H10O4
reactant | HCl | 5 ml | Cl | ClH
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | water | 1 ml | O | H2O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | N-hydroxy-N-(2-naphthylmethyl)-4methoxycarbonylbutanamide | 58 mg, 64% | ON(C(CCCC(=O)OC)=O)CC1=CC2=CC=CC=C2C=C1 | C17H19NO4
